US06096753
5-(4-Fluorophenyl)-2-hydrazino-6-(4-pyridyl)-4(3 H)-pyrimidinone
A mixture of 5-(4-fluorophenyl)-6-(4-pyridyl)-2-thiouracil (500 mg, 1.66 mmol) and hydrazine hydrate (800 ml, ~14 mmol) was heated at 120° C. for 60 min. It was evaporated and the reaction product was recrystallized from hot methanol to provide the title compound. MS (m/z): 298.0 (M+H)+ ; C15H12FN5O requir. 297.3. 1H-NMR (DMSO-d6): d 8.41, 7.12 (2m, each 2 H, Pyrid.), 7.05, 7.00 (2m, each 2 H, PhF). R1 =NH--NH2

reactant | 5-(4-fluorophenyl)-6-(4-pyridyl)-2-thiouracil | 1.66 mmol, 500 mg | FC1=CC=C(C=C1)C=1C(NC(NC1C1=CC=NC=C1)=S)=O | C15H10FN3OS
reactant | hydrazine hydrate | ~14 mmol, 800 ml | O.NN
product | 5-(4-Fluorophenyl)-2-hydrazino-6-(4-pyridyl)-4(3 H)-pyrimidinone | FC1=CC=C(C=C1)C=1C(NC(=NC1C1=CC=NC=C1)NN)=O | C15H12FN5O
